US07741321B2
To a solution of (4-chloro-3-hydroxy-phenyl)acetonitrile (6.2 g, 37 mmol) in CH3CN (80 mL) was added K2CO3 (10.2 g, 74 mmol) and BnBr (7.6 g, 44 mmol). The mixture was stirred at room temperature overnight. The solids were filtered off and the filtrate was evaporated under vacuum. The residue was purified by column chromatography on silica gel (Petroleum Ether/Ethyl Acetate 50:1) to give 2-(3-(benzyloxy)-4-chlorophenyl)acetonitrile (5.6 g, 60%). 1H NMR (400 MHz, CDCl3) δ 7.48-7.32 (m, 6H), 6.94 (d, J=2 Hz, 2H), 6.86 (dd, J=2.0, 8.4 Hz, 1H), 5.18 (s, 2H), 3.71 (s, 2H).

reactant | (4-chloro-3-hydroxy-phenyl)acetonitrile | 37 mmol, 6.2 g | ClC1=C(C=C(C=C1)CC#N)O | C8H6ClNO
reactant | K2CO3 | 74 mmol, 10.2 g | C(=O)([O-])[O-].[K+].[K+]
reactant | BnBr | 44 mmol, 7.6 g | C1=CC=C(C=C1)CBr | C7H7Br
solvent | CH3CN | 80 mL | CC#N | C2H3N
product | 2-(3-(benzyloxy)-4-chlorophenyl)acetonitrile | 5.6 g, 60% | C(C1=CC=CC=C1)OC=1C=C(C=CC1Cl)CC#N | C15H12ClNO
